US07977371B2
3′-(4-Nitrophenylthio)acetophenone (Reference compound No. 6-1)
A suspension of 3′-mercaptoacetophenone (Reference compound No. 4-1, 0.50 g, 3.3 mmol), potassium carbonate (0.55 g, 4.0 mmol) and 4-fluoronitrobenzene (0.42 mL, 4.0 mmol) in N,N-dimethylformamide (20 mL) was stirred at room temperature for 8.5 hours. Water (30 mL) was added to the reaction mixture, extracted with mixed solvent (30 mL) which consists of hexane and ethyl acetate (3:1). The organic layer was washed with brine (30 mL), dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title reference compound (1.2 g) quantitatively as a yellow solid.

reactant | 3′-mercaptoacetophenone | SC=1C=C(C=CC1)C(C)=O | C8H8OS
reactant | potassium carbonate | 4.0 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoronitrobenzene | 4.0 mmol, 0.42 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Water | 30 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3′-(4-Nitrophenylthio)acetophenone | 1.2 g | [N+](=O)([O-])C1=CC=C(C=C1)SC=1C=C(C=CC1)C(C)=O | C14H11NO3S
